datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"ClCC[O-:10].O=C(C1=CC=NC=C1)[CH:21](C1=CC([N+](=O)[O-])=CC([N+](=O)[O-])=C1)[H:20]>>ClCC[O:10][H:20].O=C(C1=CC=NC=C1)[CH-:21]C1=CC([N+](=O)[O-])=CC([N+](=O)[O-])=C1 10=20;20,21=21",
"COC(=O)c1cccc[n+:21]1[H:20].Cc1cc(-c2ccccc2)n(-c2ccc(C(=O)O)cc2)[n:10]1>>COC(=O)c1cccc[n:21]1.Cc1cc(-c2ccccc2)n(-c2ccc(C(=O)O)cc2)[n+:10]1[H:20] 10=20;20,21=21",
"Cc1c(C(=O)[O-])c(C(=O)[O-])n(-c2ccccc2)[n:10]1.Cc1cc(CO)c([O:21][H:20])c(CO)c1>>Cc1c(C(=O)[O-])c(C(=O)[O-])n(-c2ccccc2)[n+:10]1[H:20].Cc1cc(CO)c([O-:21])c(CO)c1 10=20;20,21=21",
"C1CCN(C2CC[NH:10]CC2)CC1.C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1>>C1CCN(C2CC[NH+:10]([H:20])CC2)CC1.C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"CCC(=O)c1cc(C(C)=O)n[n-:10]1.C[n+]1ccn(CCC[n+]2ccc(/C=N/[O:21][H:20])cc2)c1>>CCC(=O)c1cc(C(C)=O)n[n:10]1[H:20].C[n+]1ccn(CCC[n+]2ccc(/C=N/[O-:21])cc2)c1 10=20;20,21=21",
"CCCCn1c[n+:21]([H:20])c2ccccc21.NC(=O)NOCC(=O)[O-:10]>>CCCCn1c[n:21]c2ccccc21.NC(=O)NOCC(=O)[O:10][H:20] 10=20;20,21=21",
"CC(C)NCC[NH:10]C(C)C.N#C[CH:21](C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1)[H:20]>>CC(C)NCC[NH+:10](C(C)C)[H:20].N#C[CH-:21]C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1 10=20;20,21=21",
"C[N+]1=CC=C(C(=O)[CH:21](C2=CC=C([N+](=O)[O-])C=C2)[H:20])C=C1.OCC[O-:10]>>C[N+]1=CC=C(C(=O)[CH-:21]C2=CC=C([N+](=O)[O-])C=C2)C=C1.OCC[O:10][H:20] 10=20;20,21=21",
"NC(=O)C(Cc1c[nH]c2ccccc12)[NH2+:21][H:20].c1ccc(C[NH2+]CC[S-:10])cc1>>NC(=O)C(Cc1c[nH]c2ccccc12)[NH2:21].c1ccc(C[NH2+]CC[S:10][H:20])cc1 10=20;20,21=21",
"Nc1ccc2n[n+:21]([H:20])ccc2c1.O=C(c1cc(Cl)cc([N+](=O)[O-])c1)[O-:10]>>Nc1ccc2n[n:21]ccc2c1.O=C(c1cc(Cl)cc([N+](=O)[O-])c1)[O:10][H:20] 10=20;20,21=21",
"CC(=N[N+](C)(C)C)[O-:10].CC(O)(C(=O)[O:21][H:20])c1ccccc1>>CC(=N[N+](C)(C)C)[O:10][H:20].CC(O)(C(=O)[O-:21])c1ccccc1 10=20;20,21=21",
"CC1(C)C(=O)[N-:10]C(=O)C1(C)C.Cc1nnc([N:21](S(=O)(=O)c2ccc(O)cc2)[H:20])s1>>CC1(C)C(=O)[N:10]([H:20])C(=O)C1(C)C.Cc1nnc([N-:21]S(=O)(=O)c2ccc(O)cc2)s1 10=20;20,21=21",
"C(=N/[O:21][H:20])\c1ccccn1.OCc1ccc([O-:10])c(CO)c1>>C(=N/[O-:21])\c1ccccn1.OCc1ccc([O:10][H:20])c(CO)c1 10=20;20,21=21",
"CC[N:10](CC)CCCC(C)Nc1ccnc2cc(Br)ccc12.Oc1ccc2c(c1)Cc1cc([NH2+:21][H:20])ccc1-2>>CC[N+:10](CC)(CCCC(C)Nc1ccnc2cc(Br)ccc12)[H:20].Oc1ccc2c(c1)Cc1cc([NH2:21])ccc1-2 10=20;20,21=21",
"CN(C)c1cc[n:10]cn1.Cc1cn[n+:21]([H:20])c2c(O)cccc12>>CN(C)c1cc[n+:10]([H:20])cn1.Cc1cn[n:21]c2c(O)cccc12 10=20;20,21=21",
"N#CC1CC2CC[N+:21]1([H:20])CC2.Nc1sc2ccccc2[n:10]1>>N#CC1CC2CC[N:21]1CC2.Nc1sc2ccccc2[n+:10]1[H:20] 10=20;20,21=21",
"C=C[C@]1(O)C[C@@H](C)[NH:10][C@@H]2CCCC[C@H]21.COCC[NH+:21](c1cccc(OC)c1)[H:20]>>C=C[C@]1(O)C[C@@H](C)[NH+:10]([H:20])[C@@H]2CCCC[C@H]21.COCC[NH:21]c1cccc(OC)c1 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].C[Se]CC[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.C[Se]CC[NH2+:10][H:20] 10=20;20,21=21",
"Cn1c[nH+]c(C(=O)[O:21][H:20])c1C(=O)O.[O-]c1ccc(Nc2ccc([O-:10])cc2)cc1>>Cn1c[nH+]c(C(=O)[O-:21])c1C(=O)O.[O-]c1ccc(Nc2ccc([O:10][H:20])cc2)cc1 10=20;20,21=21",
"CCOCCn1c(CN2CC[NH+](CCCCn3cccn3)CC2)[n:10]c2ccccc21.O=[N+]([O-])[N:21](c1ccccc1)[H:20]>>CCOCCn1c(CN2CC[NH+](CCCCn3cccn3)CC2)[n+:10]([H:20])c2ccccc21.O=[N+]([O-])[N-:21]c1ccccc1 10=20;20,21=21",
"NS(=O)(=O)c1cccc(C(=O)[O:21][H:20])c1.N[C@H]1CC(=O)N(CCCC[C@@H](C(=O)[O-])[NH2:10])C1=O>>NS(=O)(=O)c1cccc(C(=O)[O-:21])c1.N[C@H]1CC(=O)N(CCCC[C@@H](C(=O)[O-])[NH2+:10][H:20])C1=O 10=20;20,21=21",
"C[N+:21](C)(CCCCC(=O)Oc1cccc([N+](=O)[O-])c1)[H:20].C[N:10](C)[C@H]1CCC[C@@H]1C#N>>C[N+:10](C)([C@H]1CCC[C@@H]1C#N)[H:20].C[N:21](C)CCCCC(=O)Oc1cccc([N+](=O)[O-])c1 10=20;20,21=21",
"COCC[O-:10].C[N+]1=CC=CC(C(=O)[CH:21](C2=CC=CC([N+](=O)[O-])=C2)[H:20])=C1>>COCC[O:10][H:20].C[N+]1=CC=CC(C(=O)[CH-:21]C2=CC=CC([N+](=O)[O-])=C2)=C1 10=20;20,21=21",
"CC(C)c1ccccc1C(=O)[O:21][H:20].Ic1ccc2cc([O-:10])ccc2c1>>CC(C)c1ccccc1C(=O)[O-:21].Ic1ccc2cc([O:10][H:20])ccc2c1 10=20;20,21=21",
"CCCCC#CC(=O)[O-:10].c1cc[n+:21]([H:20])c(-c2[nH]c3ccccc3[nH+]2)c1>>CCCCC#CC(=O)[O:10][H:20].c1cc[n:21]c(-c2[nH]c3ccccc3[nH+]2)c1 10=20;20,21=21",
"CO[C@H]1C=CC2=CC[N:10]3CCC(CO)=C(CCO)[C@]23C1.c1ccc2c(c1)c[n+:21]([H:20])c1ccccc21>>CO[C@H]1C=CC2=CC[N+:10]3([H:20])CCC(CO)=C(CCO)[C@]23C1.c1ccc2c(c1)c[n:21]c1ccccc21 10=20;20,21=21",
"C#CC[N+:21](C)(C)[H:20].Cc1ccccc1/C(=N/CCC[N:10](C)C)c1ccccc1>>C#CC[N:21](C)C.Cc1ccccc1/C(=N/CCC[N+:10](C)(C)[H:20])c1ccccc1 10=20;20,21=21",
"CCCCCCCCC(=O)O[O:21][H:20].O=P([O-])(C([NH2+]Cc1cccnc1)c1ccccc1O)[O-:10]>>CCCCCCCCC(=O)O[O-:21].O=P([O-])(C([NH2+]Cc1cccnc1)c1ccccc1O)[O:10][H:20] 10=20;20,21=21",
"CC(C)(C)[N+:21]1([H:20])CC(O[Si](C)(C)C)C1.C[C@H](NC(=O)[C@H](CCC(N)=O)NC(=O)[C@@H]1CCC(=O)N1)C(=O)[O-:10]>>CC(C)(C)[N:21]1CC(O[Si](C)(C)C)C1.C[C@H](NC(=O)[C@H](CCC(N)=O)NC(=O)[C@@H]1CCC(=O)N1)C(=O)[O:10][H:20] 10=20;20,21=21",
"O=C(CC#Cc1ccccc1)[O-:10].c1ccc([NH+:21](c2ccccc2)[H:20])cc1>>O=C(CC#Cc1ccccc1)[O:10][H:20].c1ccc([NH:21]c2ccccc2)cc1 10=20;20,21=21",
